US06946577B2
Preparation of bis(2-(di-tert.-butylphosphino)biphenyl copper(I) bromide
50 ml of degassed, anhydrous methanol were heated at reflux temperature, and 2.36 g (7.9 mmole) of 2-(di-tert.-butylphosphino)biphenyl were slowly added to the methanol until the phosphine compound had completely dissolved. 0.59 g (2.6 mmole) of copper(II) bromide was then added in portions to the solution. After addition of the copper bromide the solution was heated for a further 15 minutes at reflux temperature and the solution was then cooled. After cooling the solution a precipitate formed that was filtered off and was washed with a small amount of ethanol and diethyl ether and then dried. 0.93 g (1.1 mmole) of the abovementioned compound was obtained. The yield was 80% of theory.

reactant | 2-(di-tert.-butylphosphino)biphenyl | 7.9 mmole, 2.36 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | phosphine | P | H3P
reactant | copper(II) bromide | 2.6 mmole, 0.59 g | [Cu](Br)Br
solvent | methanol | CO | CH4O
product | 2-(di-tert.-butylphosphino)biphenyl copper(I) bromide | 1.1 mmole, 0.93 g, yield was 80% | [Cu]Br.C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | InChI=1S/C20H27P.BrH.Cu/c1-19(2,3)21(20(4,5)6)18-15-11-10-14-17(18)16-12-8-7-9-13-16;;/h7-15H,1-6H3;1H;/q;;+1/p-1
